US07678929B2
4.0 g (18.9 mmol) of 6,7-difluoro-5-hydroxy-2-methylbenzofuran-4-carbaldehyde are stirred for 20 h at 90° C. together with 2.79 g (24.5 mmol) of 1-penteneboronic acid and 0.72 ml (3.73 mmol) of dibenzylamine in 95 ml of 1,4-dioxane. Water is added to the reaction mixture, which is then extracted with MTBE. The organic phase is separated off, and the aqueous phase is extracted with MTBE. The combined organic phases are washed with water and sat. sodium chloride soln. The solution is dried using sodium sulfate and concentrated to dryness. The crude product is firstly purified by column chromatography (SiO2, 1-chlorobutane) and subsequently crystallised from methanol, giving 4,5-difluoro-2-methyl-7-propyl-7H-furo[3,2-f]chromene as a yellow, crystalline solid.

reactant | 6,7-difluoro-5-hydroxy-2-methylbenzofuran-4-carbaldehyde | 18.9 mmol, 4.0 g | FC=1C(=C2C(C=C(O2)C)=C(C1O)C=O)F | C10H6F2O3
reactant | 1-penteneboronic acid | 24.5 mmol, 2.79 g | C(=CCCC)B(O)O | C5H11BO2
reactant | dibenzylamine | 3.73 mmol, 0.72 ml | C(C1=CC=CC=C1)NCC1=CC=CC=C1 | C14H15N
reactant | Water | O | H2O
solvent | 1,4-dioxane | 95 ml | O1CCOCC1 | C4H8O2
product | 4,5-difluoro-2-methyl-7-propyl-7H-furo[3,2-f]chromene | FC1=C2C(=C3C=CC(OC3=C1F)CCC)C=C(O2)C | C15H14F2O2
